US06410661B1
Prepration of [isopropylidene-(3-phenylcyclopentadienyl)-9-fluorenyl]zirconium dichloride
4.2 ml (6.7 mmol) of n-butyllithium in the form of a 1.6 molar solution in hexane are added dropwise to 1.1 g (3.2 mmol) of 2-(3-phenylcyclopentadienyl)-2-fluorenylpropane in 30 ml of tetrahydrofuran at room temperature. The mixture is heated briefly at the boil after 12 hours. After the solvent has been distilled off, the precipitate is washed with 20 ml of pentane. After the pentane has been decanted, 0.74 g (3.2 mmol) of zirconium tetrachloride and 100 ml of pentane are added. The mixture is stirred for three days at room temperature. After the pentane has been decanted, the residue is extracted with methylene chloride. After the solvent has been evaporated, 530 mg (1.0 mmol, 31%, based on zirconium tetrachloride) of the product are obtained as a crystalline, red solid.

reactant | n-butyllithium | 6.7 mmol, 4.2 ml | C(CCC)[Li]
reactant | 2-(3-phenylcyclopentadienyl)-2-fluorenylpropane | 3.2 mmol, 1.1 g | C1(=CC=CC=C1)C1=CC(C=C1)C(C)(C)C1=CC=CC=2C3=CC=CC=C3CC12 | C27H24
reactant | zirconium tetrachloride | 3.2 mmol, 0.74 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | pentane | 100 ml | CCCCC | C5H12
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | [isopropylidene-(3-phenylcyclopentadienyl)-9-fluorenyl]zirconium dichloride | [Cl-].[Cl-].C(C)(C)=C1C(=C2C(=C3C=CC=CC3=C2C=C1)[Zr+2])C1C=C(C=C1)C1=CC=CC=C1 | InChI=1S/C27H21.2ClH.Zr/c1-18(2)23-14-15-25-24-11-7-6-10-21(24)17-26(25)27(23)22-13-12-20(16-22)19-8-4-3-5-9-19;;;/h3-16,22H,1-2H3;2*1H;/q;;;+2/p-2
